US08466188B2
C. Synthesis of 1-[2-(benzyloxy)propyl]-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1D, and making non-critical variations to replace 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 1-[3-(benzyloxy)propyl]-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (92%): 1H NMR (300 MHz, CDCl3) δ7.42-6.95 (m, 9H), 6.56 (s, 1H), 6.24 (s, 1H), 5.86 (ABq, 1H), 5.81 (ABq, 1H), 4.99 (s, 1H), 4.42 (s, 2H), 3.91-3.76 (m, 2H), 3.46 (t, 2H), 2.03-1.93 (m, 2H); MS (ES+) m/z 418.3 (M+1).

reactant | 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)(C1=CC2=C(OCO2)C=C1O)O | C20H20BrNO5
reactant | 1-[3-(benzyloxy)propyl]-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C(C1=CC=CC=C1)OCCCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C25H23NO6
product | 1-[2-(benzyloxy)propyl]-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C(C1=CC=CC=C1)OC(CN1C(C(C2=CC=CC=C12)C1=CC2=C(OCO2)C=C1O)=O)C | C25H23NO5
